US07465731B2
Ethyl (2E)-3-(5-chloro-2-Pyrazinyl)acrylate (250 mg, 1.18 mmol) and (5R)-5-amino-1-(benzyloxy)-2-piperidinone (388 mg, 1.86 mmol) were combined in 1,4-dioxane (4 mL) at ambient temperature. To this solution were added palladium(II) acetate (18 mg, 0.8 mmol) and 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (46 mg, 0.1 mmol) at the same temperature and the mixture was stirred for 5 minutes. To the resulting mixture was added cesium carbonate (536 mg, 1.86 mmol) and the mixture was heated at 95° C. for 24 hrs. The reaction mixture was evaporated in vacuo and the residue was partitioned between water and EtOAc. The organic layer was separated, washed water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (CHCl3/methanol=95/1) to give ethyl (2E)-3-(5-{[(3R)-1-(benzyloxy)-6-oxo-3-piperidinyl]amino}-2-pyrazinyl)acrylate (202 mg, 43%) as an amorphous solid.

reactant | Ethyl (2E)-3-(5-chloro-2-Pyrazinyl)acrylate | 1.18 mmol, 250 mg | ClC=1N=CC(=NC1)/C=C/C(=O)OCC | C9H9ClN2O2
reactant | (5R)-5-amino-1-(benzyloxy)-2-piperidinone | 1.86 mmol, 388 mg | N[C@@H]1CCC(N(C1)OCC1=CC=CC=C1)=O | C12H16N2O2
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 0.1 mmol, 46 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | cesium carbonate | 1.86 mmol, 536 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 0.8 mmol, 18 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl (2E)-3-(5-{[(3R)-1-(benzyloxy)-6-oxo-3-piperidinyl]amino}-2-pyrazinyl)acrylate | 202 mg, 43% | C(C1=CC=CC=C1)ON1C[C@@H](CCC1=O)NC=1N=CC(=NC1)/C=C/C(=O)OCC | C21H24N4O4
